US09120822B2
Manganese dioxide (1.38 g, 15.89 mmol) is added at room temperature to a stirred solution of (3-mercapto-6-methoxy-quinoline-4-yl)-methanol and its corresponding dimer (500 mg) in acetone (30 mL) and the resulting suspension is heated under reflux for 8 hours. The reaction mixture is then filtered through decalite and the filtrate is concentrated to give a residue that is purified by column chromatography (silica gel, eluent: petroleum ether:ethyl acetate, 2:1, v/v) to afford 3-mercapto-6-methoxy-quinoline-4-carbaldehyde and its corresponding dimer as a yellow solid (64 mg, 13% yield).

reactant | (3-mercapto-6-methoxy-quinoline-4-yl)-methanol | SC=1C=NC2=CC=C(C=C2C1CO)OC | C11H11NO2S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetone | 30 mL | CC(=O)C | C3H6O
catalyst | Manganese dioxide | 15.89 mmol, 1.38 g | [O-2].[O-2].[Mn+4]
product | 3-mercapto-6-methoxy-quinoline-4-carbaldehyde | SC=1C=NC2=CC=C(C=C2C1C=O)OC | C11H9NO2S
